US09284333B2
To a solution of 5,6,7,8-tetrahydro-indolizine-1-carboxylic acid ethyl ester (Comp. No. 2b) (2 g, 10.3 mmol) in anhydrous dichloromethane (5 ml) was added trichloro-acetyl chloride (4.7 g, 25.9 mmol). The resulting mixture was stirred at room temperature for 3 days, and then evaporated to dryness. The crude product was purified by silica gel chromatography (eluting with 5 to 50% ethyl acetate in heptane) to give 2.74 g of 3-(2,2,2-trichloro-acetyl)-5,6,7,8-tetrahydro-indolizine-1-carboxylic acid ethyl ester. LC/MS (method 5): Rt=5.05 min; m/z=338.02 (M+H+).

reactant | 5,6,7,8-tetrahydro-indolizine-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=CN2CCCCC12 | C11H15NO2
reactant | trichloro-acetyl chloride | 25.9 mmol, 4.7 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-(2,2,2-trichloro-acetyl)-5,6,7,8-tetrahydro-indolizine-1-carboxylic acid ethyl ester | 2.74 g | C(C)OC(=O)C=1C=C(N2CCCCC12)C(C(Cl)(Cl)Cl)=O | C13H14Cl3NO3
